US06506901B2
Step H: (4-{3-[4-(4-Formyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic Acid Methyl Ester
The title compound was prepared from (4-{3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic acid methyl ester (0.274 g, 0.5 mmol), sodium iodide (0.185 g, 1.2 mmol), and trichloromethylsilane (0.118 mL, 1.0 mmol) according to the procedure used for example 84 (Step D) and used directly in the next step

reactant | (4-{3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic acid methyl ester | 0.5 mmol, 0.274 g | COC(COC1=CC(=C(C=C1)CNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(OC)OC)F)=O | C25H32FN3O8S
reactant | sodium iodide | 1.2 mmol, 0.185 g | [I-].[Na+]
reactant | trichloromethylsilane | 1.0 mmol, 0.118 mL | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
product | (4-{3-[4-(4-Formyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic Acid Methyl Ester | COC(COC1=CC(=C(C=C1)CNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O)F)=O | C23H26FN3O7S
